US09328095B2
Methyl 5-bromo-2-(2-(4-cyanophenoxy)acetamido)benzoate
To a solution of methyl 2-amino-5-bromobenzoate (4.0 g, 17.39 mmol) in dichloromethane (60 mL) was added 2-(4-cyanophenoxy)acetyl chloride (3.74 g, 19.13 mmol, Intermediate 2: step a) to form a thick suspension. An additional 30 mL of dichloromethane was added. The reaction was then cooled to 0° C. and triethylamine (5.32 mL, 38.25 mmol) was added dropwise. The cold bath was removed and the reaction was stirred at room temperature for 2 hours, then filtered to give the title compound as a white solid. The filtrate was washed with water, followed by saturated aqueous NH4Cl solution. The organic layer was dried (MgSO4), filtered, concentrated, and the residue was purified by flash column chromatography (silica gel, 20% EtOAc-heptane) to afford more of the title compound.

reactant | methyl 2-amino-5-bromobenzoate | 17.39 mmol, 4.0 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 2-(4-cyanophenoxy)acetyl chloride | C(#N)C1=CC=C(OCC(=O)Cl)C=C1 | C9H6ClNO2
reactant | triethylamine | 38.25 mmol, 5.32 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Methyl 5-bromo-2-(2-(4-cyanophenoxy)acetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(COC1=CC=C(C=C1)C#N)=O | C17H13BrN2O4
